US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-oxo-1,3,8-triazaspiro[4.5]dec-1-ene-8-carboxamide
Triethylamine (42 μL, 0.30 mmol) was added to a solution of the hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (25 mg, 0.061 mmol) and 4-nitrophenyl chloroformate (14 mg, 0.070 mmol) in tetrahydrofuran (5 mL) at 0° C. After 40 min, the hydrochloride salt of 1,3,8-triazaspiro[4.5]dec-1-en-4-one (21 mg, 0.091 mmol), triethylamine (34 μL, 0.24 mmol) and chloroform (5 mL) were added and the mixture allowed to warm to ambient temperature. After 18 h, saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane. The organic extracts were washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→85% dichloromethane/methanol) gave the title compound (22 mg). MS 525.2000 (M+1).

reactant | Triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.061 mmol, 25 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.070 mmol, 14 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1,3,8-triazaspiro[4.5]dec-1-en-4-one | 0.091 mmol, 21 mg | N1=CNC(C12CCNCC2)=O | C7H11N3O
reactant | triethylamine | 0.24 mmol, 34 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-oxo-1,3,8-triazaspiro[4.5]dec-1-ene-8-carboxamide | 22 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC1(C(NC=N1)=O)CC2 | C24H25F5N6O2
